US09126974B2
3-Chloro-N-ethyl-1H-pyrazol-4-amine (7a)
A 250-mL, 3-neck round bottom flask was charged with N-(3-chloro-1H-pyrazol-4-yl)acetamide (4.75 g, 29.8 mmol) and tetrahydrofuran (50 mL). Borontrifluoride etherate (7.8 mL, 74.4 mmol) was added and the mixture was stirred for 15 minutes. Sodium borohydride (3.38 g, 89 mmol) was added (off-gassing) and the reaction was heated at 50° C. for 4 hours, at which point thin layer chromatography analysis [Eluent: ethyl acetate, sample was prepared by treatment of reaction mixture with hydrochloric acid, followed by sodium bicarbonate basification and ethyl acetate extraction] indicated that the reaction was complete. Water (40 mL) was added (off-gassing), followed by concentrated hydrochloric acid (6 mL, off-gassing). The mixture was heated at 50° C. for 5 hours and allowed to cool to 20° C. and stirred for 16 hours. The mixture was concentrated under reduced pressure to remove tetrahydrofuran and basified with sodium bicarbonate. Ethyl acetate (50 mL) was added and the layers were separated. The aqueous layer was extracted with ethyl acetate (25 mL) and the combined organic layers were concentrated to dryness to afford a colorless oil (2.80 g, 65%): 1H NMR (400 MHz, DMSO-d6) δ 12.30 (s, 1H), 7.20 (d, T=1.6 Hz, 1H), 3.94 (s, 1H), 2.87 (q, J=7.1 Hz, 2H), 1.11 (t, J=7.1 Hz, 3H); 13C NMR (101 MHz, DMSO) δ 129.18, 127.11, 115.03, 41.06, 14.56; EIMS m/z 145 ([M]+).

reactant | N-(3-chloro-1H-pyrazol-4-yl)acetamide | 29.8 mmol, 4.75 g | ClC1=NNC=C1NC(C)=O | C5H6ClN3O
reactant | Borontrifluoride etherate | 74.4 mmol, 7.8 mL | B(F)(F)F.CCOCC
reactant | Sodium borohydride | 89 mmol, 3.38 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 6 mL | Cl | ClH
solvent | Water | 40 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-Chloro-N-ethyl-1H-pyrazol-4-amine | 2.80 g, 65% | ClC1=NNC=C1NCC | C5H8ClN3
